US04607030
2-Aminomethyl-4-(1,1-dimethylethyl)-6-(o-chlorobenzyl)aminosulfonylphenol hydrochloride
This compound is prepared analogously to Examples 11c and 11d from 2-acetamidomethyl-6-chlorosulfonyl-4-(1,1-dimethylethyl)-phenol and o-chlorobenzylamine.

reactant | 2-acetamidomethyl-6-chlorosulfonyl-4-(1,1-dimethylethyl)-phenol | C(C)(=O)NCC1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)Cl)O | C13H18ClNO4S
reactant | o-chlorobenzylamine | ClC1=C(CN)C=CC=C1 | C7H8ClN
product | 2-Aminomethyl-4-(1,1-dimethylethyl)-6-(o-chlorobenzyl)aminosulfonylphenol hydrochloride | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)NCC1=C(C=CC=C1)Cl)O | InChI=1S/C18H23ClN2O3S.ClH/c1-18(2,3)14-8-13(10-20)17(22)16(9-14)25(23,24)21-11-12-6-4-5-7-15(12)19;/h4-9,21-22H,10-11,20H2,1-3H3;1H
